US07888366B2
A solution of (S)-1-(3-chlorophenyl)ethanol (20.4 g, 130.26 mmol) in dimethylformamide was added to a cooled (0° C.) slurry of sodium hydride (5.73 g, 143.29 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was slowly warmed to room temperature, stirred for 1 hour. Again, cooled (0° C.), then a solution of 2,6-difluorobenzonitrile (19.93 g, 143.29 mmol) in dimethylfomamide was added, stirred overnight at room temperature. The reaction mixture was poured on crushed ice-water, stirred, extracted with ether, dried, filtered and concentrated to afford 30.0 g of 2-fluoro-5-[(S)-1-(3-chlorophenyl)ethoxy]benzonitrile.

reactant | (S)-1-(3-chlorophenyl)ethanol | 130.26 mmol, 20.4 g | ClC=1C=C(C=CC1)[C@H](C)O | C8H9ClO
reactant | sodium hydride | 143.29 mmol, 5.73 g | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | 143.29 mmol, 19.93 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-fluoro-5-[(S)-1-(3-chlorophenyl)ethoxy]benzonitrile | 30.0 g | FC1=C(C#N)C=C(C=C1)O[C@@H](C)C1=CC(=CC=C1)Cl | C15H11ClFNO
